US07148228B2
Step 3: 4-Chloro-3-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine
1-(2-Amino-4,6-dichloro-pyrimidin-5-yl)-ethanone (200 mg, 0.97 mmol) was dissolved in CH2Cl2 and treated with anhydrous hydrazine (31 mg, 0.97 mmol, 1 equiv.) at r.t. overnight. The precipitate was collected by filtration, washed with CH2Cl2, dissolved in DMSO (0.5 mL), and partitioned between EtOAc (100 mL) and water (25 mL). The organic layer was dried (brine, Na2SO4) and concentrated to afford the title compound as a white solid (95 mg, 0.52 mmol, 53%).

reactant | 1-(2-Amino-4,6-dichloro-pyrimidin-5-yl)-ethanone | 0.97 mmol, 200 mg | NC1=NC(=C(C(=N1)Cl)C(C)=O)Cl | C6H5Cl2N3O
reactant | hydrazine | 0.97 mmol, 31 mg, 1 equiv. | NN | H4N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Chloro-3-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine | 0.52 mmol, 95 mg, 53% | ClC1=C2C(=NC(=N1)N)NN=C2C | C6H6ClN5
